US08975406B2
A mixture of 4-bromo-2-fluorobenzyl bromide (30.4 g, 114 mmol, 1 eq), 1-methylsulfonylpiperazine (20.0 g, 114 mmol, 1 eq) and K2CO3 (31.6 g, 228 mmol, 2 eq) in acetonitrile (500 mL) was stirred at 40° C. for 18 h. The reaction mixture was allowed to cool to room temperature, the mixture was filtered through Celite, washing with EtOAc. The filtrate was concentrated in vacuo to yield 1-(4-bromo-2-fluoro-benzyl)-4-methanesulfonyl-piperazine.

reactant | 4-bromo-2-fluorobenzyl bromide | 114 mmol, 30.4 g, 1 eq | BrC1=CC(=C(CBr)C=C1)F | C7H5Br2F
reactant | 1-methylsulfonylpiperazine | 114 mmol, 20.0 g, 1 eq | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
reactant | K2CO3 | 228 mmol, 31.6 g, 2 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
product | 1-(4-bromo-2-fluoro-benzyl)-4-methanesulfonyl-piperazine | BrC1=CC(=C(CN2CCN(CC2)S(=O)(=O)C)C=C1)F | C12H16BrFN2O2S
